US08975398B2
N-(4-{[1-(cyclopropylmethyl)piperidin-4-yl]oxy}phenyl)-1-(pyridin-3-yl)azetidine-3-carboxamide
In a 20 mL vial was added N-(4-(piperidin-4-yloxy)phenyl)-1-(pyridin-3-yl)azetidine-3-carboxamide bis(2,2,2-trifluoroacetate) (67 mg, 0.12 mmol) dissolved in methanol (2.0 mL) followed by the addition of cyclopropanecarbaldehyde (10 mg, 0.14 mmol) dissolved in methanol (0.45 mL), followed by the addition of neat acetic acid (66 μL, 1.2 mmol). The mixture was shaken for 1 hour at 70° C. After that, 265 mg of MP-cyanoborohydride resin (2-3 mmol/g) was added and the resulting mixture was shaken at 70° C. overnight. The reaction mixture was filtered, checked by LC/MS and concentrated to dryness. The residues were dissolved in 1:1 DMSO/CH3OH and purified by reverse phase HPLC. 1H NMR (500 MHz, pyridine-d5/D2O) δ ppm 8.20-8.25 (m, 1 H) 8.13 (d, J=2.75 Hz, 1 H) 7.98-8.03 (m, 2 H) 7.11 (dd, J=8.24, 4.58 Hz, 1 H) 7.02-7.07 (m, 2 H) 6.72-6.78 (m, 1 H) 4.58 (d, J=2.75 Hz, 1H) 4.34 (t, J=6.71 Hz, 2 H) 4.05 (t, J=7.63 Hz, 2 H) 3.80-3.92 (m, 1 H) 3.34 (s, 4 H) 2.92 (d, J=7.32 Hz, 2 H) 2.32-2.44 (m, 2 H) 2.12 (s, 2 H) 1.09-1.22 (m, 1 H) 0.51-0.58 (m, 2 H) 0.28-0.34 (m, 2 H); MS (ESI(+)) m/e 407 (M+H).

reactant | N-(4-(piperidin-4-yloxy)phenyl)-1-(pyridin-3-yl)azetidine-3-carboxamide bis(2,2,2-trifluoroacetate) | 0.12 mmol, 67 mg | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.N1CCC(CC1)OC1=CC=C(C=C1)NC(=O)C1CN(C1)C=1C=NC=CC1
reactant | cyclopropanecarbaldehyde | 0.14 mmol, 10 mg | C1(CC1)C=O | C4H6O
reactant | acetic acid | 1.2 mmol, 66 μL | C(C)(=O)O | C2H4O2
reactant | cyanoborohydride | C(#N)[BH3-]
solvent | methanol | 2.0 mL | CO | CH4O
solvent | methanol | 0.45 mL | CO | CH4O
product | N-(4-{[1-(cyclopropylmethyl)piperidin-4-yl]oxy}phenyl)-1-(pyridin-3-yl)azetidine-3-carboxamide | C1(CC1)CN1CCC(CC1)OC1=CC=C(C=C1)NC(=O)C1CN(C1)C=1C=NC=CC1 | C24H30N4O2
